US04022900
6-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline was reacted with 3,4,5-trimethoxybenzoyl chloride as in Example 16 to yield 6-(3,4,5-trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline. It was recovered as the HCl salt; m.p. 233.5°-235° C. after purification in methanol.

reactant | 6-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC=1C=C2CCN(CC2=CC1)C | C10H14N2
reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 6-(3,4,5-trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C(=O)NC=2C=C3CCN(CC3=CC2)C)C=C(C1OC)OC | C20H24N2O4
